### PR TITLE
feat(Topology/VectorBundle): coordinate lemmas for the bundle of bilinear forms

### PR DESCRIPTION
**Pull request by idontgetoutmuch**
Two coordinate-level identities for the bundle of scalar-valued bilinear forms
`fun x ↦ E x →L[ℝ] E x →L[ℝ] ℝ` over a real vector bundle:

* `inCoordinates_apply_eq₂_bilin`: the `inCoordinates` expression evaluated on
  coordinate inputs equals the intrinsic form on the transported inputs;
* `trivializationAt_symm_apply_bilin`: the inverse trivialization of the bilinear-forms
  bundle, applied to fibre vectors, equals the model form on their images under
  `continuousLinearMapAt`.

These are used when transporting a fibrewise bilinear form (such as a Riemannian metric)
through a trivialization, and are the first piece split out of #33714 (existence of a
Riemannian metric on a manifold), which will be rebased on top of this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 1]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+bundle, i.e. `E₂ = E₁` and `E₃ = Bundle.Trivial B 𝕜`. -/
+lemma inCoordinates_apply_eq₂_bilin
+    {x₀ x : B} {ϕ : E₁ x →L[𝕜] E₁ x →L[𝕜] 𝕜} {v w : F₁}
+    (hx : x ∈ (trivializationAt F₁ E₁ x₀).baseSet) :
+    inCoordinates F₁ E₁ (F₁ →L[𝕜] 𝕜) (fun x ↦ E₁ x →L[𝕜] 𝕜) x₀ x x₀ x ϕ v w =
+      ϕ ((trivializationAt F₁ E₁ x₀).symm x v) ((trivializationAt F₁ E₁ x₀).symm x w) := by
+  rw [inCoordinates_apply_eq₂ hx hx (by simp [Trivial.fiberBundle_trivializationAt'])]
+  simp [Trivial.fiberBundle_trivializationAt', Trivial.linearMapAt_trivialization]
+
+/-- The inverse trivialization of the bundle of scalar-valued bilinear forms
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean:536]: Can this statement be generalised to more general bundles? If so, that would be nicer to have.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 2]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+    (x₀ x : B) (hb : x ∈ (trivializationAt F₁ E₁ x₀).baseSet)
+    (ϕ : F₁ →L[𝕜] F₁ →L[𝕜] 𝕜) (u v : E₁ x) :
+    (trivializationAt (F₁ →L[𝕜] F₁ →L[𝕜] 𝕜) (fun x ↦ E₁ x →L[𝕜] E₁ x →L[𝕜] 𝕜) x₀).symm
+        x ϕ u v =
+      ϕ (trivializationAt F₁ E₁ x₀ |>.continuousLinearMapAt 𝕜 x u)
+        (trivializationAt F₁ E₁ x₀ |>.continuousLinearMapAt 𝕜 x v) := by
+  let ψ := FiberBundle.trivializationAt (F₁ →L[𝕜] F₁ →L[𝕜] 𝕜)
+      (fun (x : B) ↦ E₁ x →L[𝕜] E₁ x →L[𝕜] 𝕜) x₀
+  let χ := trivializationAt F₁ E₁ x₀
+  let w := ψ.symm x ϕ
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: This variable is just used twice: I'd inline it.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 3]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+  have hc : x ∈ ψ.baseSet := by
+    rw [hom_trivializationAt_baseSet]
+    simp only [hom_trivializationAt_baseSet, Trivial.fiberBundle_trivializationAt',
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: Do you know about simpa? The last two lines can be written as `simpa using hb`.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 4]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+      Trivial.trivialization_baseSet, inter_univ, inter_self]
+    exact hb
+  have h1 : ∀ u v,
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: As the [style guide](https://leanprover-community.github.io/contribute/style.html) asks: Please follow the hypothesis left of colon rule, by making `u` and `v` parameters to the `have`. In this case, this means modifying the statements (and proofs) to look like this:
`  have h1 (u v) : (((ψ.continuousLinearMapAt 𝕜 x) (ψ.symmL 𝕜 x ϕ)) u) v = ϕ u v := by ...` and
`have h2 (u v) : ϕ u v = ψ.symm x ϕ (χ.symm x u) (χ.symm x v) := by ...`, respectively.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 5]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+    exact hc
+  have h3 := Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb u
+  rw [Trivialization.symmL_apply] at h3
+  · have h4 :=
+      Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb v
+    rw [Trivialization.symmL_apply] at h4
+    · rw [show w u v = ϕ (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v) from by
+        rw [h2 (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v), h3, h4]]
+    · exact hb
+  · exact hb
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: These `hb` are side conditions which appear when you do the `rw [Trivialization.symmL_apply]`. (Right after this step, the infoview will show you *two* goals, the second of which is eventually proven by your `exact hb`.)
Since the proof is so short, it's nicer to provide the proof right as you do the rewrite. Do `rw [Trivialization.symmL_apply _ hb] at h4` etc., instead; then you can also get rid of the additional indentation.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 6]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+    rw [← h1, Trivialization.continuousLinearMapAt_apply, Trivialization.linearMapAt_apply,
+      hom_trivializationAt_apply, ite_eq_left hc, ← inCoordinates_apply_eq₂_bilin hb]
+    rw [Trivialization.symmL_apply]
+    exact hc
+  have h3 := Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb u
+  rw [Trivialization.symmL_apply] at h3
+  · have h4 :=
+      Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb v
+    rw [Trivialization.symmL_apply] at h4
+    · rw [show w u v = ϕ (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v) from by
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: This pattern will be hard to maintain. It's better to split this in two parts, first changing the current goal, and then proving it.
```
show ψ.symm x ϕ u v = ϕ (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v)
rw [h2 (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v), h3, h4]
```
is equivalent to what you're writing; then a mathlib linter will tell you to replace `show` by `change` (and why).

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 7]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+    exact hb
+  have h1 : ∀ u v,
+      (((Trivialization.continuousLinearMapAt 𝕜 ψ x) (ψ.symmL 𝕜 x ϕ)) u) v = ϕ u v :=
+    fun u v ↦ by rw [Trivialization.continuousLinearMapAt_symmL ψ hc]
+  have h2 : ∀ u v, ϕ u v = w (χ.symm x u) (χ.symm x v) := fun u v ↦ by
+    rw [← h1, Trivialization.continuousLinearMapAt_apply, Trivialization.linearMapAt_apply,
+      hom_trivializationAt_apply, ite_eq_left hc, ← inCoordinates_apply_eq₂_bilin hb]
+    rw [Trivialization.symmL_apply]
+    exact hc
+  have h3 := Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb u
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: `h3` and `h4` are proving the same thing (just for u and v). That's an opportunity to shorten the argument. The first step is to extract a shared `have` which implies both, as in
```
  have H (u) : (trivializationAt F₁ E₁ x₀).symm x
      (((trivializationAt F₁ E₁ x₀).continuousLinearMapAt 𝕜 x) u) = u := by sorry
```

The next step is to realise that doing `have h: ...; rw at h` can often be phrased more elegantly. This is such a case. This
```
  have H (u) : (trivializationAt F₁ E₁ x₀).symm x
      (((trivializationAt F₁ E₁ x₀).continuousLinearMapAt 𝕜 x) u) = u := by
    rw [← Trivialization.symmL_apply (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb,
      Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb]
```
does so directly. Then, you can in fact omit `H` entirely and just inline these rewrites at their point of usage.

With the other comments here applied, the result will look something like
```
  change ψ.symm x ϕ u v = ϕ (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v)
  rw [h2 (χ.continuousLinearMapAt 𝕜 x u) (χ.continuousLinearMapAt 𝕜 x v),
    ← Trivialization.symmL_apply (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb,
    Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb,
    ← Trivialization.symmL_apply (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb,
    Trivialization.symmL_continuousLinearMapAt (R := 𝕜) (trivializationAt F₁ E₁ x₀) hb]
```

File: Mathlib/Topology/VectorBundle/Riemannian.lean [hunk 8]
```diff
@@ -185,16 +185,11 @@ lemma eventually_norm_symmL_trivializationAt_self_comp_lt (x : B) {r : ℝ} (hr
   simp only [Trivialization.symmL_apply, mem_baseSet_trivializationAt,
     ← real_inner_self_eq_norm_sq, hg]
   have hgy : g y v v = g' y w w := by
-    rw [inCoordinates_apply_eq₂ h'y h'y (Set.mem_univ _)]
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Riemannian.lean:188]: These are good golfs!

**Review by grunweg — COMMENTED** [review]
Thanks! I just took a first look, on the low-level golfing side. Let's fix these things, and then look at higher-level ways to improve the statement.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 9]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+      (fun (x : B) ↦ E₁ x →L[𝕜] E₁ x →L[𝕜] 𝕜) x₀
+  let χ := trivializationAt F₁ E₁ x₀
+  let w := ψ.symm x ϕ
+  have hc : x ∈ ψ.baseSet := by
+    rw [hom_trivializationAt_baseSet]
+    simp only [hom_trivializationAt_baseSet, Trivial.fiberBundle_trivializationAt',
+      Trivial.trivialization_baseSet, inter_univ, inter_self]
+    exact hb
+  have h1 : ∀ u v,
+      (((Trivialization.continuousLinearMapAt 𝕜 ψ x) (ψ.symmL 𝕜 x ϕ)) u) v = ϕ u v :=
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: In fact, you can inline this into the proof of h2:
- trying a mere `rw [← Trivialization.continuousLinearMapAt_symmL ψ hc]` won't work. Lean will complain that you're rewriting backwards, but that it cannot tell at which point you're rewriting ("The pattern to be substituted is a metavariable"). So, you need to specify that you want to apply this at the point ϕ.
- then, Lean will complain that it cannot determine the base ring R, so you have to provide it explicitly
- then, the rewrite will work (but a later line will give an error). if you look at the infoview, you'll see that this `rw` applied to too many terms. Using `nth_rw` fixes this, and allows you to remove `h1` completely.

In a nutshell, replace the first rewrite by `nth_rw 1 [← Trivialization.continuousLinearMapAt_symmL (R := 𝕜) ψ hc ϕ]`.

File: Mathlib/Topology/VectorBundle/Hom.lean [hunk 10]
```diff
@@ -522,6 +523,53 @@ theorem inCoordinates_apply_eq₂
...
+    fun u v ↦ by rw [Trivialization.continuousLinearMapAt_symmL ψ hc]
+  have h2 : ∀ u v, ϕ u v = w (χ.symm x u) (χ.symm x v) := fun u v ↦ by
+    rw [← h1, Trivialization.continuousLinearMapAt_apply, Trivialization.linearMapAt_apply,
+      hom_trivializationAt_apply, ite_eq_left hc, ← inCoordinates_apply_eq₂_bilin hb]
+    rw [Trivialization.symmL_apply]
+    exact hc
```
Comment (grunweg) [inline Mathlib/Topology/VectorBundle/Hom.lean]: Same point as below, you can turn this into one line.

**Review by grunweg — COMMENTED** [review]
One more low-level comment
awaiting-author

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 1 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean:536]: Done: generalised to `inCoordinates_apply_eq₂_of_trivial`, which holds for arbitrary
bundles `E₁`, `E₂` with trivial target bundle `Bundle.Trivial B F₃`. Triviality of the
target is what the lemma actually uses; for a general `E₃` the statement is
`inCoordinates_apply_eq₂` itself. The scalar-valued, single-bundle version has been
removed, and its uses in `Riemannian.lean` now call the general lemma.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 2 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done: `w` is inlined as `ψ.symm x ϕ`.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 3 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: I knew of it but I would never have used it myself. I will look out for opportunities to use in future :-) It needed `simpa [ψ] using hb`, since `ψ` is a `let` and `simp` doesn't unfold it otherwise.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 4 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done. (`h1` has since been removed entirely, following your later suggestion to inline it with `nth_rw`; `h2` now takes `(u v)` as binders.) `h2` then renamed to `h1` otherwise the reader is wondering what happened to `h1`.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 5 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done: the side conditions are now passed directly (`Trivialization.symmL_apply _ hc` in `h2`, and `… hb` in the final `rw`), so the bullets and extra indentation are gone. `h3`/`h4` have since been removed entirely, following your later suggestion to inline those rewrites.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 6 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done: split into `change ψ.symm x ϕ u v = …` followed by the `rw`, using `change` rather than `show` as the linter prefers.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 7 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done, thanks for the detailed walkthrough. `h3`/`h4` are gone and the rewrites are inlined into the final `rw` after the `change`, as you suggested.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 9 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done, thanks for explaining why each step was needed. `h1` is gone, and `h2` now starts with `nth_rw 1 [← Trivialization.continuousLinearMapAt_symmL (R := 𝕜) ψ hc ϕ]`.

File: Mathlib/Topology/VectorBundle/Hom.lean (hunk 10 above)
Comment (idontgetoutmuch) [reply Mathlib/Topology/VectorBundle/Hom.lean]: Done: folded into the preceding `rw` as `Trivialization.symmL_apply _ hc`.
